US20010027196A1
To a stirred suspension of 250 mg (1.01 mmol) 6-amino-4-furan-2-yl-2-methanesulfinyl-nicotinonitrile in 10 ml DME was added 0.41 ml (4.04 mmol) 2-picolylamine and the mixture heated at 100° C. for 16 hours. The reaction mixture was then cooled to room temperature and partitioned between water and dichloromethane. The organic phase was dried over sodium sulfate and concentrated in vacuo. Chromatography (ethyl acetate) followed by trituration in ether afforded 100 mg (34%) 6-amino-4-furan-2-yl-2-[(pyridin-2-ylmethyl)-amino]-nicotinonitrile as an off-white crystalline solid. ES-MS m/e (%): 292 (M+H+, 100).

reactant | 6-amino-4-furan-2-yl-2-methanesulfinyl-nicotinonitrile | 1.01 mmol, 250 mg | NC1=NC(=C(C#N)C(=C1)C=1OC=CC1)S(=O)C | C11H9N3O2S
reactant | 2-picolylamine | 4.04 mmol, 0.41 ml | N1=C(C=CC=C1)CN | C6H8N2
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 6-amino-4-furan-2-yl-2-[(pyridin-2-ylmethyl)-amino]-nicotinonitrile | 100 mg, 34% | NC1=NC(=C(C#N)C(=C1)C=1OC=CC1)NCC1=NC=CC=C1 | C16H13N5O
